US04757102
[N,N-Dibenzylaminoxymethyl]diallylamine
The procedure of Example I is repeated using 21.33 g of dibenzylhydroxylamine, 9.73 g of aqueous formaldehyde (37%) solution and 9.72 g of diallylamine, to afford the title compound.

reactant | dibenzylhydroxylamine | 21.33 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | formaldehyde | 9.73 g | C=O | CH2O
reactant | diallylamine | 9.72 g | C(C=C)NCC=C | C6H11N
product | [N,N-Dibenzylaminoxymethyl]diallylamine | C(C1=CC=CC=C1)N(OCN(CC=C)CC=C)CC1=CC=CC=C1 | C21H26N2O
